US04929741
A solution of 7.6 g (29 mmol) of 4-(1-ethoxyethoxy)-1-(4-methoxyphenyl)-2-butyn-1-ol in 56 ml of methylene chloride was added dropwise at 0° to a suspension of 74 g (0.85 mol) of manganese dioxide in 100 ml of methylene chloride. The reaction mixture was stirred at 0° for 10 minutes, filtered over magnesium sulphate and concentrated. Chromatography of the residue on 300 g of silica gel (elution agent ether/hexane 1:1) Yielded 4-(1-ethoxyethoxy)- 1-(4-methoxyphenyl)-2-butyn-1-one as an oil.

reactant | 4-(1-ethoxyethoxy)-1-(4-methoxyphenyl)-2-butyn-1-ol | 29 mmol, 7.6 g | C(C)OC(C)OCC#CC(O)C1=CC=C(C=C1)OC | C15H20O4
solvent | methylene chloride | 56 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.85 mol, 74 g | [O-2].[O-2].[Mn+4]
product | 4-(1-ethoxyethoxy)- 1-(4-methoxyphenyl)-2-butyn-1-one | C(C)OC(C)OCC#CC(=O)C1=CC=C(C=C1)OC | C15H18O4
